US05300506
To a solution of crude 3-[5-[[(dimethylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl methanesulfonate (1.4 mmol, 1.0 equiv.) in 10 mL of anhydrous acetonitrile was added 0.225 g (1.50 mmol, 1.1 equiv.) of sodium iodide, 0.26 mL (1.50 mmol, 1.1 equiv.) of N,N-diisopropylethylamine and 0.291 g (1.50 mmol, 1.1 equiv.) of 1-(5-methoxy-4-pyrimidinyl)piperazine. The mixture was heated to reflux for sixteen hours. The reaction mixture was concentrated in vacuo and the residue was taken up in 50 mL of ethyl acetate. The organic layer was washed with a 10 mL portion of 10% potassium carbonate. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield an oil. The oil was purified by chromatography on silica gel using 5% methanol in methylene chloride containing 0.5% concentrated aqueous ammonium hydroxide to obtain 0.403 g (62%) of 1-[3-[5-[[(dimethylamino)sulfonyl]-methyl]-1H-indol-3-yl]propyl]-4-(5-methoxy-4- pyrimidinyl)piperazine. The hydrochloride salt was prepared by addition of 3N ethanolic HCl. Two recrystallizations from methanol gave 0.323 g (64%) of 1-[3-[ 5-[[(dimethyl-amino)sulfonyl]methyl]-1H-indol-3-yl]propyl]-4-(5-methoxy-4-pyrimidinyl)piperazine hydrochloride hydrate, m.p. 210° C. (d). Elemental analysis calculated for C23H32N6O3S/3 HCl/0.5 H2O: C, 46.74; H, 6.14; N, 14.22; found: C., 46.82; H, 6.42; N, 14.09.

reactant | 3-[5-[[(dimethylamino)sulfonyl]methyl]-1H-indol-3-yl]propyl methanesulfonate | 1.4 mmol, 1.0 equiv. | CS(=O)(=O)OCCCC1=CNC2=CC=C(C=C12)CS(=O)(=O)N(C)C | C15H22N2O5S2
reactant | sodium iodide | 1.50 mmol, 0.225 g, 1.1 equiv. | [I-].[Na+]
reactant | N,N-diisopropylethylamine | 1.50 mmol, 0.26 mL, 1.1 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(5-methoxy-4-pyrimidinyl)piperazine | 1.50 mmol, 0.291 g, 1.1 equiv. | COC=1C(=NC=NC1)N1CCNCC1 | C9H14N4O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-[3-[5-[[(dimethylamino)sulfonyl]-methyl]-1H-indol-3-yl]propyl]-4-(5-methoxy-4- pyrimidinyl)piperazine | 0.403 g, 62% | CN(S(=O)(=O)CC=1C=C2C(=CNC2=CC1)CCCN1CCN(CC1)C1=NC=NC=C1OC)C | C23H32N6O3S
